US04079181
To a solution of p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-hydroxyethylidene)acetate (904 mg) in a mixture (9.5 ml) of tetrahydrofuran and hexamethylphosphorotriamide (20:1) are added methanesulfonyl chloride (0.26 ml) and triethylamine (0.37 ml). After 2 hours, the reaction mixture is poured into ice water, and extracted with chloroform. The extract solution is washed with water, dried, and evaporated to give p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-methanesulfonyloxyethylidene)acetate (1.12 g). Yellow foam. IR: νmaxCHCl3 3426, 1785, 1722-1704br, 1640, 1601, 1160, 1175, 986 cm-1. NMR: δCDCl3 0.32-1.25m5H, 2.57s3H, 2.72s3H, 3.99d(7Hz)2H, 4.55s2H, 5.33-5.99m4H, 6.82-7.62m7H, 8.21d(8.5Hz).2H

reactant | p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-hydroxyethylidene)acetate | 904 mg | C1(CC1)COC(=O)SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O)NC(COC1=CC=CC=C1)=O | C27H27N3O10S
reactant | tetrahydrofuran | 9.5 ml | O1CCCC1 | C4H8O
reactant | hexamethylphosphorotriamide | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | methanesulfonyl chloride | 0.26 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 0.37 ml | C(C)N(CC)CC | C6H15N
product | p-nitrobenzyl α-[4-cyclopropylmethoxycarbonylthio-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(1-methanesulfonyloxyethylidene)acetate | 1.12 g | C1(CC1)COC(=O)SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)OS(=O)(=O)C)=O)NC(COC1=CC=CC=C1)=O | C28H29N3O12S2
